US05624943
In an autoclave, a solution of 11.5 g of 3-(3-benzyloxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester in 125 ml of methanol is hydrogenated in the presence of 1.15 g of 10% palladium catalyst on activated carbon at an initial pressure of 32 bars for 2 hours at room temperature. The reaction mixture is filtered, the filter residue is washed with methanol and the filtrate is concentrated by evaporation. 6.8 g of 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester of melting point 94°-96° C. is obtained.

reactant | 3-(3-benzyloxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester | 11.5 g | COC(\C=C\C1=NC=CC=C1OCC1=CC=CC=C1)=O | C16H15NO3
solvent | methanol | 125 ml | CO | CH4O
catalyst | palladium | 1.15 g | [Pd] | Pd
product | 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester | 6.8 g | COC(CCC1=NC=CC=C1O)=O | C9H11NO3
